US04942262
A 200 ml flask purged with nitrogen was charged with 9.29 g (20 mmols) of 6-chloro-1-hydroxy-3,7-dimethyl-9-(2,6,6-trimethyl-1-cyclohexen-1-yl)-9-phenylsulfonyl-2,7-nonadiene and 40 ml of toluene, followed by agitation for a while, further addition of 5.89 g (100 mmols) of powdery potassium hydroxide (purity of 95%) and 66.3 mg (0.4 mmols) of tetraethylammonium chloride and further agitation at 10° C. for 12 hours. 50 ml of a 5% saline solution was added to the reaction solution for phase separation of the solution. To the resultant organic phase was added 10 ml (105.4 mmols) of acetic anhydride and 0.9 g of sodium carbonate, followed by agitation at 40° C. for 3 hours. After addition of 100 ml of a 10% sodium hydroxide aqueous solution to the reaction solution, the resulting organic phase was separated and washed twice with 100 ml of a 5% saline solution, followed by removal of the solvent by distillation to obtain 12.8 g of a red cily substance. This oily substance was subjected to quantitative determination by high performance liquid chromatography with the result that the yield of vitamin A acetate was 80.9% and the content of the all-trans isomer in the vitamin A acetate was 94.5%. The liquid chromatographic analysis conditions were as follows.

reactant | 6-chloro-1-hydroxy-3,7-dimethyl-9-(2,6,6-trimethyl-1-cyclohexen-1-yl)-9-phenylsulfonyl-2,7-nonadiene | 20 mmols, 9.29 g | ClC(CCC(=CCO)C)C(=CC(S(=O)(=O)C1=CC=CC=C1)C1=C(CCCC1(C)C)C)C | C26H37ClO3S
reactant | potassium hydroxide | 100 mmols, 5.89 g | [OH-].[K+]
reactant | acetic anhydride | 105.4 mmols, 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium carbonate | 0.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetraethylammonium chloride | 0.4 mmols, 66.3 mg | [Cl-].C(C)[N+](CC)(CC)CC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | vitamin A acetate | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/COC(=O)C)/C)/C | C22H32O2
